US06268518B1
(a) Synthesis of bis(2-methyl-3-trimethylsilyl-1-indenyl)methane
6.32 g of bis(2-methyl-1-indenyl)methane (23.2 mmol) were dissolved in 70 ml Et2O in a 250 ml Schlenk tube, and the white suspension was cooled to −50° C. 19.5 ml of 2.5 M BuLi in hexane (48.8 mmol) were added dropwise over 20 minutes under stirring. The suspension was allowed to warm to room temperature and stirred for 3 hours. The final suspension was light yellow. 6.2 ml of chlorotrimethylsilane (48.8 mmol) were dissolved in 50 ml Et2O. The two mixtures were both cooled to −50° C. and the Li salt suspension in Et2O was added to the chlorotrimethylsilane solution in Et2O. The cooling bath was removed and the reaction mixture was stirred overnight at room temperature. Then the reaction mixture, colored in yellow, was quenched with a few ml of MeOH, filtered and concentrated, thus giving 9.36 g of an brown and viscous liquid (96.8% yield).

reactant | bis(2-methyl-1-indenyl)methane | 23.2 mmol, 6.32 g | CC=1C(C2=CC=CC=C2C1)CC1C(=CC2=CC=CC=C12)C | C21H20
reactant | BuLi | 2.5 M, 19.5 ml | [Li]CCCC
reactant | hexane | 48.8 mmol | CCCCCC | C6H14
reactant | chlorotrimethylsilane | 48.8 mmol, 6.2 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | Et2O | 70 ml | CCOCC | C4H10O
solvent | Et2O | 50 ml | CCOCC | C4H10O
product | bis(2-methyl-3-trimethylsilyl-1-indenyl)methane | 96.8% yield | CC=1C(C2=CC=CC=C2C1[Si](C)(C)C)CC1C(=C(C2=CC=CC=C12)[Si](C)(C)C)C | C27H36Si2
